US08461328B2
A solution of racemic trans [3-(6-benzenesulfonyl-6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-cyclopentyl]-carbamic acid methyl ester (171 mg, 380 μmol) in methanol (2 mL) and THF (1 mL) was treated with a 1M sodium hydroxide solution (2 mL) and stirred at ambient temperature for 1.5 hours. Dilute HCl was added and the mixture purified by Isolute® SCX-2 column (gradient: methanol to 2M NH3 in methanol solution). The residue obtained was purified further by column chromatography on silica gel (gradient: 50% ethyl acetate in cyclohexane then 0-10% methanol in ethyl acetate). The product was further purified by a diethyl ether/cyclohexane trituration to afford 48 mg (41%) of racemic trans [3-(6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-cyclopentyl]-carbamic acid methyl ester as a white solid. LCMS (Method A, ESI): RT=2.92 min, m+H=301.3; 1H NMR (400 MHz, DMSO) δ: 12.35 (s, 1H), 8.99 (s, 1H), 7.60 (d, 1H), 7.47 (d, 1H), 7.03 (d, 1H), 5.66 (m, 1H), 4.28 (m, 1H), 3.55 (s, 3H), 2.50 (m, 2H), 2.23 (m, 3H), 1.73 (m, 1H).

reactant | racemic trans [3-(6-benzenesulfonyl-6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-cyclopentyl]-carbamic acid methyl ester | 380 μmol, 171 mg | COC(N[C@@H]1C[C@H](CC1)N1N=NC2=CN=C3N(C=CC3=C12)S(=O)(=O)C1=CC=CC=C1)=O | C20H20N6O4S
reactant | sodium hydroxide | 1M, 2 mL | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | methanol | 2 mL | CO | CH4O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | racemic trans [3-(6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-cyclopentyl]-carbamic acid methyl ester | 48 mg, 41% | COC(N[C@@H]1C[C@H](CC1)N1N=NC2=CN=C3NC=CC3=C12)=O | C14H16N6O2
